US04474754
5(a). Preparation of H-Arg-Ser-Lys(Tos)-Glu-OH
2.00 Grams of Z-Arg(NO2)-Ser-Lys(Tos)-Glu-OH was suspended in a mixture of 30 ml of methanol with 30 ml of 50%-acetic acid and a small amount of palladium black was added thereto and the mixture was stirred for 36 hours under introducing hydrogen gas. After the reaction was completed, the catalyst was removed by filtration in vacuo, and the filtrate was distilled under a reduced pressure to obtain residue, then the residue was poured into water and was lyophilized. In 18 hours after the lyophilization, the lyophilized product was dissolved in water, then again the solution was lyophilized to obtain the desired product.

reactant | Z-Arg(NO2)-Ser-Lys(Tos)-Glu-OH | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C35H49N9O14S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
catalyst | palladium black | [Pd] | Pd
product | H-Arg-Ser-Lys(Tos)-Glu-OH | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O | C27H44N8O10S
